US04209626
2-Chloro-5-(3-methoxyphenyl)pyridine
In the manner described in Example 26, a mixture of 5-(3-methoxyphenyl)-2(1H)-pyridinone and phosphorus oxychloride yields the product of the Example.

reactant | 5-(3-methoxyphenyl)-2(1H)-pyridinone | COC=1C=C(C=CC1)C=1C=CC(NC1)=O | C12H11NO2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-5-(3-methoxyphenyl)pyridine | ClC1=NC=C(C=C1)C1=CC(=CC=C1)OC | C12H10ClNO
